US07393848B2
A quantity of 0.36 g (1 mmole) of benzothiazol-6-yl-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine is dissolved in 10 mL ethylene glycol dimethyl ether and the solution purged for 15 minutes with N2. Catalytic tetrakis(triphenylphosphine)palladium (10 mol %) is added and the solution purged with N2 for 5 minutes with vigorous stirring. 3-Aminophenylboronic acid hemisulfate (0.23 g, 1.25 mmole) is added to the reaction, followed by 4 mL of 1.0N Na2CO3. The reaction is heated to 95° C. overnight in a sealed tube. The reaction is then cooled to rt, and the bilayer partitioned between ethyl acetate and water. The water layer is further extracted with ethyl acetate, and the organic extracts are pooled and washed with brine. After drying the organic extracts with solid sodium sulfate, the solvents are removed in vacuo to afford the [6-(3-amino-phenyl)-imidazo[1,2-a]pyrazin-8-yl]-benzothiazol-6-yl-amine, which is purified by silica chromatography.

reactant | benzothiazol-6-yl-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine | 1 mmole, 0.36 g | S1C=NC2=C1C=C(C=C2)NC=2C=1N(C=C(N2)Br)C=CN1 | C13H8BrN5S
reactant | 3-Aminophenylboronic acid hemisulfate | 1.25 mmole, 0.23 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | Na2CO3 | 1.0N, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
product | [6-(3-amino-phenyl)-imidazo[1,2-a]pyrazin-8-yl]-benzothiazol-6-yl-amine | NC=1C=C(C=CC1)C=1N=C(C=2N(C1)C=CN2)NC2=CC1=C(N=CS1)C=C2 | C19H14N6S
